US07632832B2
Step B. tert-Butyl 4-[4-(methoxycarbonyl)-2-oxo-2,3-dihydro-1H-imidazol-1-yl]piperidine-1-carboxylate
Dess-Martin periodinane (1.77 g, 4.16 mmol) was added to a solution of methyl N-({[1-(tert-butoxycarbonyl)piperidin-4-yl]amino}carbonyl)serinate (1.15 g, 3.33 mmol) in dichloromethane (30 mL) at 0° C. and then warmed to ambient temperature. After 4 h, the reaction was quenched with a 1:1 mixture of saturated sodium thiosulfate and sodium bicarbonate solution. The mixture was extracted with dichloromethane (2×) and the combined organic extracts were dried over sodium sulfate, filtered, and concentrated. Purification by silica gel chromatography (100% dichloromethane→12% methanol {1% ammonium hydroxide}/dichloromethane) gave the title compound.

reactant | Dess-Martin periodinane | 4.16 mmol, 1.77 g | CC(=O)OI1(C=2C=CC=CC2C(=O)O1)(OC(=O)C)OC(=O)C | C13H13IO8
reactant | methyl N-({[1-(tert-butoxycarbonyl)piperidin-4-yl]amino}carbonyl)serinate | 3.33 mmol, 1.15 g | C(C)(C)(C)OC(=O)N1CCC(CC1)NC(=O)N[C@@H](CO)C(=O)OC | C15H27N3O6
solvent | dichloromethane | 30 mL | ClCCl | CH2Cl2
product | tert-Butyl 4-[4-(methoxycarbonyl)-2-oxo-2,3-dihydro-1H-imidazol-1-yl]piperidine-1-carboxylate | COC(=O)C=1NC(N(C1)C1CCN(CC1)C(=O)OC(C)(C)C)=O | C15H23N3O5
